US07893058B2
Step 1: 5-Bromo-furan-3-carboxylic acid
Furan-3-carboxylic acid (1 g, 8.93 mmol) is added to a solution of pyridinium hydrobromide perbromide (3.02 g, 9.46 mmol) in acetic acid (5 mL). The reaction mixture is stirred at 50° C. for 5 hours, then at room temperature overnight. After removing the solvent in vacuo, water is added and a precipitate is formed. The solid is collected by filtration and dried to yield the title compound (0.364 g, 21%). HPLC (254 nm): Rt 2.65 min (88%).

reactant | Furan-3-carboxylic acid | 8.93 mmol, 1 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 5-Bromo-furan-3-carboxylic acid | 0.364 g, 21% | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
